US04117164
STEP D: cis and trans isomers of 3-nitro-7-aminomethyl-6,7,8,9-tetrahydro [5H] benzocycloheptene-5-ol
20 g of 3-nitro-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile were added under nitrogen to 200 ml of anhydrous tetrahydrofuran and diborane [prepared by introducing a solution of 23 g of sodium borohydride in 640 ml of diglyme at 20° C. over 4 hours into a solution of 118 g of a ether-boron trifluoride complex in 250 ml of diglyme (J.A.C.S., Vol. 82 (1960), p. 685] was bubbled into the mixture for 30 minutes at room temperature. The mixture was then heated for 31/2 hours on a bath at 50° C. and was then cooled to 20° C. 100 ml of water were added thereto dropwise over 10 minutes followed by 50 ml of fuming hydrochloric acid. The mixture was refluxed for an hour and was cooled to 20° C. after which 100 ml of water were added. The mixture was extracted with ethyl acetate and the organic phase was washed with water. The combined aqueous phases were made alkaline at 10° C. with concentrated sodium hydroxide and was iced. The mixture was vacuum filtered and the white product was washed with water. The wash waters were washed with methylene chloride containing 20% of methanol and the organic phase was washed with water. The while precipitate from the aqueous phase was dissolved in 100 ml of water and the solution was added to the organic extracts. The mixture was dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure to obtain 14 g of a yellow oil which was crystallized from ethyl acetate to finally obtain 13 g of a mixture of cis and trans isomers of 3-nitro-7-aminomethyl-6,7,8,9-tetrahydro [5H] benzocycloheptene-5-ol melting at ≃150° C.

reactant | 3-nitro-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene-7-carbonitrile | 20 g | [N+](=O)([O-])C1=CC2=C(CCC(CC2=O)C#N)C=C1 | C12H10N2O3
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | diborane | B#B | B2
reactant | sodium borohydride | 23 g | [BH4-].[Na+]
solvent | diglyme | 640 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 250 ml | COCCOCCOC | C6H14O3
product | 3-nitro-7-aminomethyl-6,7,8,9-tetrahydro [5H] benzocycloheptene-5-ol | 14 g | [N+](=O)([O-])C1=CC2=C(CCC(CC2O)CN)C=C1 | C12H16N2O3
